US09340538B2
Step B: Ethyl 6-(bromomethyl)-2-(thiazol-2-yl)-4-(2-(trifluoromethyl)phenyl)-1,4-dihydropyrimidine-5-carboxylate
To a solution of ethyl 6-methyl-2-(thiazol-2-yl)-4-(2-(trifluoromethyl)phenyl)-1,4-dihydropyrimidine-5-carboxylate (7.9 g, 20 mmol) in carbon tetrachloride (100 mL) was added NBS (3.74 g, 21 mmol) under N2 at 60° C. The reaction mixture was stirred at 60° C. for 10 minutes, and cooled to 25° C. The resulting mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (PETROLEUM ETHER/EtOAc (V/V)=3/1) to give the title compound as a yellow solid (6.64 g, 70%). The compound was characterized by the following spectroscopic data:

reactant | ethyl 6-methyl-2-(thiazol-2-yl)-4-(2-(trifluoromethyl)phenyl)-1,4-dihydropyrimidine-5-carboxylate | 20 mmol, 7.9 g | CC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC | C18H16F3N3O2S
reactant | NBS | 21 mmol, 3.74 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 6-(bromomethyl)-2-(thiazol-2-yl)-4-(2-(trifluoromethyl)phenyl)-1,4-dihydropyrimidine-5-carboxylate | 6.64 g, 70% | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC | C18H15BrF3N3O2S
